US03931412
Example 9 -- Preparation of Allylidene Bispropionate
To a solution of 345 g (2.65 mols) propionic anhydride and 1.05 g concentrated sulfuric acid maintained at 45°-50°C. was added dropwise 140 g (2.5 mols) acrolein over a period of 15 minutes. The reaction mixture was stirred for an additional 10 minutes. A 2.6 g-sample of 2,4,6-trimethylpyridine was then added and the reaction mixture stirred at about 25°C. for about 17 hours. The reaction mixture was then distilled through a short column to give 268 g of the product as a slightly yellow liquid, b.p. 96°-101°C. (0.25 mm Hg).

reactant | propionic anhydride | 2.65 mols, 345 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | acrolein | 2.5 mols, 140 g | C(=O)C=C | C3H4O
reactant | 2,4,6-trimethylpyridine | CC1=NC(=CC(=C1)C)C | C8H11N
catalyst | sulfuric acid | 1.05 g | S(O)(O)(=O)=O | H2O4S
product | Allylidene Bispropionate | 268 g | C(CC)(=O)OC(C=C)OC(CC)=O | C9H14O4
